US06800629B2
In a mixture of 2 mL of tetrahydrofuran and 1 mL of water was dissolved 100 mg of {(3aR,4R,6R,6aR)-6-[3-(aminocarbonyl)-2-oxo-1(2H)-pyrazinyl]-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]methyl dibenzyl phosphate. After adjusting the pH value to 0.5 with 6 mol/L hydrochloric acid, the mixture was left to stand at room temperature for 2 days. The deposited solid matter was collected by filtration and washed with ethanol to obtain 40 mg of {(2R,3S,4R,5R)-5-[3-(aminocarbonyl)-2-oxo-1(2H)-pyrazinyl]-3,4-dihydroxytetrahydro-2-furanyl}methyl dibenzyl phosphate as a solid product.

reactant | {(3aR,4R,6R,6aR)-6-[3-(aminocarbonyl)-2-oxo-1(2H)-pyrazinyl]-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]methyl dibenzyl phosphate | 100 mg | P(=O)(OC[C@H]1O[C@H]([C@@H]2OC(O[C@@H]21)(C)C)N2C(C(=NC=C2)C(=O)N)=O)(OCC2=CC=CC=C2)OCC2=CC=CC=C2 | C27H30N3O9P
reactant | hydrochloric acid | 6 mol/L | Cl | ClH
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | water | 1 mL | O | H2O
product | {(2R,3S,4R,5R)-5-[3-(aminocarbonyl)-2-oxo-1(2H)-pyrazinyl]-3,4-dihydroxytetrahydro-2-furanyl}methyl dibenzyl phosphate | 40 mg | P(=O)(OC[C@H]1O[C@H]([C@@H]([C@@H]1O)O)N1C(C(=NC=C1)C(=O)N)=O)(OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C24H26N3O9P
